US07129232B2
To a solution of 5-amino-4-(3-{2-[(tert-butoxycarbonyl)amino]ethyl}ureido)-1-methylpyrazole (597 mg) and triethylamine (243 mg) in methylene chloride (10 ml) was added triphenylmethyl chloride (669 mg), and the mixture was stirred at room temperature for 19 hours. The reaction mixture was washed successively with 10% aqueous citric acid solution, brine and saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was triturated with ethyl acetate to give 4-(3-{2-[(tert-butoxycarbonyl)amino]ethyl}ureido)-1-methyl-5-triphenylmethylaminopyrazole (640 mg) as a solid.

reactant | 5-amino-4-(3-{2-[(tert-butoxycarbonyl)amino]ethyl}ureido)-1-methylpyrazole | 597 mg | NC1=C(C=NN1C)NC(=O)NCCNC(=O)OC(C)(C)C | C12H22N6O3
reactant | triethylamine | 243 mg | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 669 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-{2-[(tert-butoxycarbonyl)amino]ethyl}ureido)-1-methyl-5-triphenylmethylaminopyrazole | 640 mg | C(C)(C)(C)OC(=O)NCCNC(NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C31H36N6O3
